US04074051
4-Dimethylaminomethyl-1-phenylpyrazolidin-3-imine.
2-Dimethylaminomethylacrylonitrile (11.0g) was added in one portion to a solution of phenylhydrazine (10.8g) and sodium ethoxide (2.3g sodium) in ethanol (100 ml). The product was rapidly oxidised in alkaline solution to a deep purple material; contact with oxygen was prevented by vigorous boiling of the solvent during 11/2 hours reflux. After cooling, the sodium ethoxide was neutralised with sulphuric acid (50 ml 2N) and the mixture was extracted with chloroform (3 × 100 ml). Evaporation of the solvent gave a brown solid (17.8g) which was recrystallised from petroleum ether (boiling point 80°-100° C; 300 ml) to yield colourless plates (16.4g, 75%, melting point 117°-8° C).

reactant | 2-Dimethylaminomethylacrylonitrile | 11.0g | CN(C)CC(C#N)=C | C6H10N2
reactant | phenylhydrazine | 10.8g | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium ethoxide | 2.3g | [O-]CC.[Na+]
reactant | oxygen | O=O | O2
reactant | sulphuric acid | 2N, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Dimethylaminomethyl-1-phenylpyrazolidin-3-imine | 17.8g | CN(C)CC1C(NN(C1)C1=CC=CC=C1)=N | C12H18N4
